* Subcircuit for ac thyristor model
.subckt scr 1 3 2
* model     anode control cathode
* name voltage
S1 1 5 6 2 SMOD ;Voltage-controlled switch
RG 3 4 50
VX 4 2 DC 0V
VY 5 7 DC 0V
DT 7 2 DMOD ;Switch diode
RT 6 2 1
CT 6 2 10UF
F1 2 6 POLY(2) VX VY 0 50 11
. MODEL SMOD VSWITCH (RON=0.0125 
+ROFF=10E+5 VON=0.5V VOFF=0V) ;
*Switch model
. MODEL DMOD D(IS=2.2E-15 BV=1800V TT=0) 
; Diode model parameters
.ENDS SCR ; Ends subcircuit definition
